US07169778B2
3. 2-Chloro-4-(ethylamino)-5-nitropyrimidine
To a solution of 5.82 g (30 mmol) of 2,4-dichloro-5-nitropyrimidine (N. Whittaker, J. Chem. Soc., 1951:1565–1570) in 100 mL THF at −78° C. is added dropwise over 5 minutes a solution of 3.87 g (60 mmol) of 70% aqueous ethylamine in 20 mL of 2-propanol. After being stirred at −78° C. for 15 minutes, the reaction mixture is allowed to warm to room temperature, and the solvent is removed under vacuum. The residue is worked up in EtOAc and chromatographed on silica, eluting with hexane/EtOAc (92:8), to give 4.90 g (81%) of the title compound: mp (hexane) 64–66° C.

reactant | 2,4-dichloro-5-nitropyrimidine | 30 mmol, 5.82 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | ethylamine | 60 mmol, 3.87 g | C(C)N | C2H7N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 2-Chloro-4-(ethylamino)-5-nitropyrimidine | 4.90 g, 81% | ClC1=NC=C(C(=N1)NCC)[N+](=O)[O-] | C6H7ClN4O2
